US06586421B2
(5aS*,10bS *)-10-(2,4-dichlorophenyl)-6-(2-phenoxyethyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole
Following the procedure for the preparation of 10-(4-chlorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole dihydrochloride, making non-critical variations, starting from 10-(2,4-dichlorophenyl)-6-(2-phenoxyethyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole the title compound was prepared: 1H NMR (CD3OD) δ 1.47, 1.55, 2.20, 2.66, 2.90, 3.19, 3.52-3.63, 4.13-4.21, 6.44, 6.50, 6.93, 7.15, 7.25-7.42, 7.57. HRMS (FAB) calcd for C26H26Cl2N2O2 (MH+) 453.1500, found 453.1520.

reactant | 10-(4-chlorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)C=1C=2C3C(NC2C=CC1)CCNCC3
reactant | 10-(2,4-dichlorophenyl)-6-(2-phenoxyethyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | ClC1=C(C=CC(=C1)Cl)C=1C=2C3=C(N(C2C=CC1)CCOC1=CC=CC=C1)CCNCC3 | C26H24Cl2N2O
product | (5aS*,10bS *)-10-(2,4-dichlorophenyl)-6-(2-phenoxyethyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole | ClC1=C(C=CC(=C1)Cl)C=1C=2[C@H]3[C@@H](N(C2C=CC1)CCOC1=CC=CC=C1)CCNCC3 | C26H26Cl2N2O
